US07196087B2
To 5.39 g (24.44 mmol) of 2-chloro-5-fluoro-1,3-dinitro-benzene dissolved in 20 mL dimethylformamide was added 2.63 g (1.2 eq., 29.27 mmol) copper cyanide. The mixture was stirred at 140° C. for 2 hours, cooled and partitioned between ethyl acetate and water, dried over magnesium sulfate and concentrated under reduced pressure. Column chromatography, eluting with ethyl acetate/hexanes, provided 1.44 g of 4-fluoro-2,6-dinitrobenzonitrile.

reactant | 2-chloro-5-fluoro-1,3-dinitro-benzene | 24.44 mmol, 5.39 g | ClC1=C(C=C(C=C1[N+](=O)[O-])F)[N+](=O)[O-] | C6H2ClFN2O4
reactant | copper cyanide | 29.27 mmol, 2.63 g, 1.2 eq. | [Cu](C#N)C#N
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-fluoro-2,6-dinitrobenzonitrile | 1.44 g | FC1=CC(=C(C#N)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C7H2FN3O4
